US07071184B2
Benzofuran-2-carboxylic acid {(S)-3-methyl-1-[(4S,7R)-7-methyl-3-oxo-1-(pyridine-2-sulfonyl)-azepan-4-ylcarbamoyl]-butyl}-amide
Dess-Martin periodinane (1.0 g, 2.36 mmol) was added to a solution of benzofuran-2-carboxylic acid {(S)-1-[(3S,4S,7R)-3-hydroxy-7-methyl-1-(pyridine-2-sulfonyl)-azepan-4-ylcarbamoyl]-3-methyl-butyl}-amide and benzofuran-2-carboxylic acid {(S)-1-[(3R,4R,7S)-3-hydroxy-7-methyl-1-(pyridine-2-sulfonyl)-azepan-4-ylcarbamoyl]-3-methyl-butyl}-amide (0.8 g, 1.48 mmol) in CH2Cl2 (20 ml) and was stirred at RT for 45 minutes. The solution was washed with 10% NaHCO3 and brine. Purification by colum chromatography (60% ethyl acetate/hexanes) gave the title compound as a mixture of diasteromers (0.75 g, 94%); The diastereomers were separated by HPLC. Diastereomer 1: 1H NMR: 8.72 (m, 1H), 8.0 (d, 1H), 8.92 (dd, 1H), 7.65 (d, 1H), 7.56 (d, 1H), 7.45 (s, 1H), 7.42 (dd, 2H), 7.28 (d, 1H), 7.10 (d, 1H), 5.15 (m, 1H), 4.77 (d, 1H), 4.68 (m, 1H), 4.40 (m, 1H), 3.86 (d, 1H), 2.20–2.08 (m, 2H), 1.78–1.50 (m, 5H), 1.22 (dd, 3H), 0.98 (m, 6H); Electrospray mass spec: M+H+=541.2; Diastereomer 2: 1H NMR: 8.68 (m, 1H), 8.04 (d, 1H), 8.92 (dd, 1H), 7.68 (d, 1H), 7.58 (d, 2H), 7.52 (s, 1H), 7.42 (dd, 1H), 7.29 (d, 1H), 7.05 (m, 2H), 5.12 (m, 1H), 4.75–4.68 (m, 1H), 4.43 (m, 1H), 3.83 (d, 1H), 2.25–2.12 (m, 2H), 1.88–1.50 (m, 5H), 0.98 (m, 9H); Electrospray mass spec: M+H+=541.2.

reactant | Dess-Martin periodinane | 2.36 mmol, 1.0 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | benzofuran-2-carboxylic acid {(S)-1-[(3S,4S,7R)-3-hydroxy-7-methyl-1-(pyridine-2-sulfonyl)-azepan-4-ylcarbamoyl]-3-methyl-butyl}-amide | O[C@H]1CN([C@@H](CC[C@@H]1NC(=O)[C@H](CC(C)C)NC(=O)C=1OC2=C(C1)C=CC=C2)C)S(=O)(=O)C2=NC=CC=C2 | C27H34N4O6S
reactant | benzofuran-2-carboxylic acid {(S)-1-[(3R,4R,7S)-3-hydroxy-7-methyl-1-(pyridine-2-sulfonyl)-azepan-4-ylcarbamoyl]-3-methyl-butyl}-amide | 1.48 mmol, 0.8 g | O[C@@H]1CN([C@H](CC[C@H]1NC(=O)[C@H](CC(C)C)NC(=O)C=1OC2=C(C1)C=CC=C2)C)S(=O)(=O)C2=NC=CC=C2 | C27H34N4O6S
solvent | CH2Cl2 | 20 ml | C(Cl)Cl | CH2Cl2
product | Benzofuran-2-carboxylic acid {(S)-3-methyl-1-[(4S,7R)-7-methyl-3-oxo-1-(pyridine-2-sulfonyl)-azepan-4-ylcarbamoyl]-butyl}-amide | CC(C[C@@H](C(N[C@@H]1C(CN([C@@H](CC1)C)S(=O)(=O)C1=NC=CC=C1)=O)=O)NC(=O)C=1OC2=C(C1)C=CC=C2)C | C27H32N4O6S
